US05693651
(1) 3-nitro-7-(5-methyl-2-phenyl-4-oxazolylmethoxy)quinoline
In DMF (9 mL) was dissolved 3-nitro-7-hydroxyquinoline (800 mg, 4.24 mmol.). Sodium hydride (168 mg, 4.24 mmol.) and 4-chloromethyl-5-methyl-2-phenyloxazole (880 mg, 4.24 mmol.) were added to the resulting solution under chilling with ice. The mixture was stirred overnight at 50°-60° C. After the completion of reaction was confirmed, ethyl acetate and aqueous sodium sulfate were added. The ethyl acetate portion was recovered, washed with water, and dried over sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1), to give 740 mg of the desired compound as a yellow-white crystalline product (yield 48%).

reactant | 3-nitro-7-hydroxyquinoline | 4.24 mmol, 800 mg | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1)O | C9H6N2O3
reactant | Sodium hydride | 4.24 mmol, 168 mg | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 4.24 mmol, 880 mg | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-nitro-7-(5-methyl-2-phenyl-4-oxazolylmethoxy)quinoline | 740 mg | [N+](=O)([O-])C=1C=NC2=CC(=CC=C2C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H15N3O4
